US06747023B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-3-[carbamoylmethyl]piperazine hydrochloride
In N,N-dimethylformamide (20 ml), 1-tert-butoxycarbonyl-2-carboxymethyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine (800 mg) was dissolved, followed by the addition of pyridine (0.85 ml), ammonium bicarbonate (417 mg) and di-tert-butoxy carbonate (1.15 g). The resulting mixture was stirred at room temperature for 7 hours. After concentration of the reaction mixture under reduced pressure, the residue was added with dichloromethane, washed with 1N hydrochloric acid and a saturated aqueous solution of sodium bicarbonate, each once and then dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. After the addition of saturated aqueous hydrochloric acid in ethanol (30 ml) to the residue, the resulting mixture was concentrated under reduced pressure. While washing with ethanol, the solid thus precipitated was removed by filtration. The filtrate was then concentrated under reduced pressure. The residue was crystallized in methanol, whereby the title compound (426 mg) was obtained as a colorless solid.

reactant | 1-tert-butoxycarbonyl-2-carboxymethyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | 800 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)CC(=O)O | C21H25ClN2O6S
reactant | pyridine | 0.85 ml | N1=CC=CC=C1 | C5H5N
reactant | ammonium bicarbonate | 417 mg | C([O-])(O)=O.[NH4+]
reactant | di-tert-butoxy carbonate | 1.15 g | C(OOC(C)(C)C)(OOC(C)(C)C)=O | C9H18O5
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-3-[carbamoylmethyl]piperazine hydrochloride | 426 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)CC(N)=O | InChI=1S/C16H18ClN3O3S.ClH/c17-13-3-1-12-8-15(4-2-11(12)7-13)24(22,23)20-6-5-19-14(10-20)9-16(18)21;/h1-4,7-8,14,19H,5-6,9-10H2,(H2,18,21);1H
